US06225311B1
To a stirred solution of ethyl amino{1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}acetate (2.1 g, 5 mmol) and 4-but-2-ynyloxy benzenesulfonyl chloride (1.24 g, 5.1 mmol) in dichloromethane (200 ml) at 0° C., N,N-diisopropylethylamine (3.0 g, 23.6 mmol) was added slowly. After the addition, the reaction mixture was stirred at room temperature for 4 h and quenched with water. The reaction mixture was washed with water, dried over anhydrous MgSO4, filtered and concentrated. It was purified by silica gel column chromatography eluting with 80% ethyl acetate:hexane to give ethyl {1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}({[4-(2-butynyloxy)phenyl]sulfonyl}amino)acetate as a brown oil; Yield: 1.0 g (85%); Electrospray Mass Spec: 561 (M+H)+.

reactant | ethyl amino{1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}acetate | 5 mmol, 2.1 g | NC(C(=O)OCC)C1(CCN(CC1)CC1=CC=CC=C1)SCCO | C18H28N2O3S
reactant | 4-but-2-ynyloxy benzenesulfonyl chloride | 5.1 mmol, 1.24 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
reactant | N,N-diisopropylethylamine | 23.6 mmol, 3.0 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | ethyl {1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}({[4-(2-butynyloxy)phenyl]sulfonyl}amino)acetate | C(C1=CC=CC=C1)N1CCC(CC1)(SCCO)C(C(=O)OCC)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C28H36N2O6S2
